US05602277
Ethyl 4-[(methylsulfonyl)amino]benzoate (Lumma, W. C. et al. J. Med. Chem. 1987, 30, 758-763) (2.0 g, 0.0082 mol) was added portionwise to fuming nitric acid (10 mL) at 5°-10° C. over 0.25 h. The mixture was further stirred for 0.5 h at 10°-15° C. and then poured into cold water (50 mL). The yellow precipitate was separated by filtration and washed several times with cold water. The cake was recrystallized from ethyl acetate to give 1.7 g (72%) of ethyl 3-nitro-4-[(methylsulfonyl)amino]benzoate as yellow crystals, mp 124° C.

reactant | Ethyl 4-[(methylsulfonyl)amino]benzoate | 0.0082 mol, 2.0 g | CS(=O)(=O)NC1=CC=C(C(=O)OCC)C=C1 | C10H13NO4S
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 50 mL | O | H2O
product | ethyl 3-nitro-4-[(methylsulfonyl)amino]benzoate | 1.7 g, 72% | [N+](=O)([O-])C=1C=C(C(=O)OCC)C=CC1NS(=O)(=O)C | C10H12N2O6S
